US04786646
As in example 1, 15.8 g of 2-bromopyridine and 8.4 g of 4-pentyn-1-ol were reacted together in 125 mL of dichloromethane in the presence of 4.2 mL of triethylamine, 2.1 g of bis(triphenylphosphine)palladium dichloride and 0.135 g of cuprous iodide. After 48 hours at reflux, the reaction was worked up in the usual manner. Distillation of the crude product yielded 8.8 g of 5-(2-pyridinyl)-4-pentyn-1-ol (bp 115°-120° C./0.25 mm).

reactant | 2-bromopyridine | 15.8 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | 4-pentyn-1-ol | 8.4 g | C(CCC#C)O | C5H8O
reactant | triethylamine | 4.2 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 125 mL | ClCCl | CH2Cl2
catalyst | bis(triphenylphosphine)palladium dichloride | 2.1 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(2-pyridinyl)-4-pentyn-1-ol | 8.8 g | N1=C(C=CC=C1)C#CCCCO | C10H11NO
